US07253196B2
2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)thiazol-4(5H)-one
The mixture of 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one (3.2 g, 12.6 mmol) and p-toulenesulfonic acid (500 mg) in 3,4-dihydro-2H-pyran (10 mL) was stirred for 2 h at room temperature. The resulting mixture was diluted with CH2Cl2 (100 mL), then washed with sat'd NaH2PO4, and dried over MgSO4. After being filtered and concentrated in vacuo, the crude residue was purified by flash chromatography (3:2; Hexane:EtOAc) to give the title compound as an oil. MS (ES+): 339 (M+H)+.

reactant | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one | 12.6 mmol, 3.2 g | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)CCO | C12H18N2O2S
reactant | 3,4-dihydro-2H-pyran | 10 mL | O1CCCC=C1 | C5H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)thiazol-4(5H)-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)CCOC2OCCCC2 | C17H26N2O3S
